US08614328B2
A mixture of 3-(2-methoxy-phenoxy)-phthalic acid dimethyl ester (0.75 g, 2.4 mmol) and 3N NaOH (50 mL) in ethanol (100 mL) was heated to reflux for 2 h. The mixture was cooled and the solvent was removed under vacuum. The residue was dissolved in water (100 mL) and washed with CH2Cl2 (2×100 mL), acidified (HCl), and extracted with ethyl acetate (3×75 mL). The combined organic extracts were washed with water (3×75 mL), dried (MgSO4), and evaporated, providing 0.53 g of 3-(2-methoxy-phenoxy)-phthalic acid, in 78% yield; 1H NMR (DMSO-d6) δ 3.76 (s, 3H), 6.82 (dd, J=8.4 Hz, J=0.9 Hz, 1H), 6.95-6.98 (m, 2H), 7.16-7.23 (m, 2H), 7.39 (t, J=8.0 Hz, 1H), 7.58 (d, J=8.2 Hz, 1H).

reactant | 3-(2-methoxy-phenoxy)-phthalic acid dimethyl ester | 2.4 mmol, 0.75 g | COC(C=1C(C(=O)OC)=C(C=CC1)OC1=C(C=CC=C1)OC)=O | C17H16O6
reactant | NaOH | 3N, 50 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(2-methoxy-phenoxy)-phthalic acid | 0.53 g, 78% yield | COC1=C(OC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC=C1 | C15H12O6
